US09145441B2
Compound 107a. (R)-4-Isopropyl-3-((R)-2-methoxymethyl-2-methyl-but-3-enoyl)-oxazolidin-2-one
To a stirred solution of (R)-3-((R)-2-hydroxymethyl-2-methyl-but-3-enoyl)-4-isopropyl-oxazolidin-2-one (724 mg, 3.00 mmol) and N,N,N′,N′-tetramethyl-1,8-naphthalenediamine (2.57 g, 11.0 mmol) in dichloromethane (15 mL) at 0° C. under nitrogen was added trimethyloxonium tetrafluoroborate (1.33 g, 9.00 mmol). The reaction was stirred at 0° C. for 15 minutes and then 4.5 h at ambient temperature. Saturated ammonium chloride solution was added and the mixture diluted with dichloromethane. The aqueous layer was separated and extracted with dichloromethane and the combined organic extracts washed with ammonium chloride solution, dried over anhydrous sodium sulfate filtered and evaporated. The residue was suspended in diethyl ether and filtered, the solids were washed with diethyl ether and the filtrate evaporated. The residue was purified by silica gel chromatography using a gradient of iso-hexanes/ethyl acetate 1:0 to 4:1 followed by purification on an SCX cartridge eluting with methanol to give the title compound (263 mg, 34%) as a colourless oil. 1H NMR (300 MHz, CDCl3) δ 0.91 (app t, J=7.0 Hz, 6H), 1.50 (s, 3H), 2.32-2.43 (m, 1H), 3.35 (s, 3H), 3.46 (d, J=8.7 Hz, 1H), 4.19 (app dd, J=9.1, 3.6 Hz, 1H), 4.27 (app t, J=8.6 Hz, 1H), 4.50-4.57 (m, 1H), 5.00 (d, J=17.9 Hz, 1H), 5.12 (d, J=10.7 Hz, 1H), 6.19 (dd, J=17.9, 10.7 Hz, 1H). LCMS (m/z) 256.2 [M+H], Tr=2.53 min.

reactant | (R)-3-((R)-2-hydroxymethyl-2-methyl-but-3-enoyl)-4-isopropyl-oxazolidin-2-one | 3.00 mmol, 724 mg | OC[C@](C(=O)N1C(OC[C@H]1C(C)C)=O)(C=C)C | C12H19NO4
reactant | N,N,N′,N′-tetramethyl-1,8-naphthalenediamine | 11.0 mmol, 2.57 g | CN(C1=CC=CC2=CC=CC(=C12)N(C)C)C | C14H18N2
reactant | trimethyloxonium tetrafluoroborate | 9.00 mmol, 1.33 g | F[B-](F)(F)F.C[O+](C)C
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | (R)-4-Isopropyl-3-((R)-2-methoxymethyl-2-methyl-but-3-enoyl)-oxazolidin-2-one | 263 mg, 34% | C(C)(C)[C@H]1N(C(OC1)=O)C([C@@](C=C)(C)COC)=O | C13H21NO4
